US04367238
2-Methoxy-3-(2-chlorophenoxy)benzaldehyde (7.0 g) and malonic acid (5.60 g) were dissolved in pyridine (60 ml). To the solution was added piperidine (0.6 ml) and the mixture was heated gradually to 80° C., while carbon dioxide was produced. Thereafter, the mixture was refluxed under heating for 30 minutes. After cooling, the reaction mixture was poured into water (300 ml), acidified with conc. hydrochloric acid and extracted with diethyl ether. The extract was washed with water, dried over magnesium sulfate and then evaporated. The crystalline residue (7.10 g) was recrystallized from diisopropyl ether to give 3-[2-methoxy-3-(2-chlorophenoxy)phenyl]acrylic acid (5.1 g). mp 145°-147° C.

reactant | 2-Methoxy-3-(2-chlorophenoxy)benzaldehyde | 7.0 g | COC1=C(C=O)C=CC=C1OC1=C(C=CC=C1)Cl | C14H11ClO3
reactant | malonic acid | 5.60 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.6 ml | N1CCCCC1 | C5H11N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 300 ml | O | H2O
product | 3-[2-methoxy-3-(2-chlorophenoxy)phenyl]acrylic acid | 5.1 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)C=CC(=O)O | C16H13ClO4
